US04262004
To a stirred mixture of 10 parts of diethyl 2-[(2,3-dihydroimidazo[2,1-b]benzothiazol-7-ylamino)methylene]propanedioate, 1.1 parts of sodium hydride dispersion 76.8% and 100 parts of hexamethylphosphoric triamide are added 13.2 parts of 1-bromohexane. The whole is stirred over weekend at 50° C. The reaction mixture is poured onto methylbenzene. The latter is washed three times with water, dried, filtered and evaporated. The residue solidifies on triturating in 1,1'-oxybisethane. The product is filtered off and crystallized from 4-methyl-2-pentanone, yielding 4.5 parts of 7-{[2,2-bis(ethoxycarbonyl)ethenyl]hexylamino}-1-hexyl-2,3-dihydroimidazo[2,1-b]benzothiazolium bromide; mp. 162° C.

reactant | diethyl 2-[(2,3-dihydroimidazo[2,1-b]benzothiazol-7-ylamino)methylene]propanedioate | N=1CCN2C1SC1=C2C=CC(=C1)NC=C(C(=O)OCC)C(=O)OCC | C17H19N3O4S
reactant | sodium hydride | [H-].[Na+]
reactant | 1-bromohexane | BrCCCCCC | C6H13Br
solvent | hexamethylphosphoric triamide | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 7-{[2,2-bis(ethoxycarbonyl)ethenyl]hexylamino}-1-hexyl-2,3-dihydroimidazo[2,1-b]benzothiazolium bromide | [Br-].C(C)OC(=O)C(=CN(C1=CC2=C(N3C(S2)=[N+](CC3)CCCCCC)C=C1)CCCCCC)C(=O)OCC | InChI=1S/C29H44N3O4S.BrH/c1-5-9-11-13-17-30-19-20-32-25-16-15-23(21-26(25)37-29(30)32)31(18-14-12-10-6-2)22-24(27(33)35-7-3)28(34)36-8-4;/h15-16,21-22H,5-14,17-20H2,1-4H3;1H/q+1;/p-1
